US05891912
4-(2-Naphthyl)-L-phenylalanine benzyl ester hydrochloride (reference compound No. 1-2)
To a solution of N-tert.-butoxycarbonyl-4-(4-fluorophenyl)-L-phenylalanine benzyl ester (700 mg) in ethyl acetate (3.2 ml) was added 4.1N hydrogen chloride/ethyl acetate (3.8 ml). The mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated in vacuo to give 3.1 g (82%) of the titled compound (reference compound No. 1-1).

reactant | N-tert.-butoxycarbonyl-4-(4-fluorophenyl)-L-phenylalanine benzyl ester | 700 mg | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C27H28FNO4
reactant | hydrogen chloride ethyl acetate | 4.1N, 3.8 ml | Cl.C(C)(=O)OCC
reactant | ethyl acetate | 3.2 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Naphthyl)-L-phenylalanine benzyl ester hydrochloride | 3.1 g, 82% | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1)=O | InChI=1S/C26H23NO2.ClH/c27-25(26(28)29-18-20-6-2-1-3-7-20)16-19-10-12-22(13-11-19)24-15-14-21-8-4-5-9-23(21)17-24;/h1-15,17,25H,16,18,27H2;1H/t25-;/m0./s1
